US09388185B2
Step 7. 2-[2-(2,6-difluoro-3,5-dimethoxyphenyl)ethyl]-6-(5-methyl-1H-pyrazol-4-yl)-5H-pyrrolo[2,3-b]pyrazine
A stirred mixture of 6-bromo-2-[2-(2,6-difluoro-3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine (15 mg, 28 μmol), (3-methyl-1H-pyrazol-4-yl)boronic acid (4.2 mg, 33 μmol), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complexed with dichloromethane (1:1) (1.8 mg, 2.2 μmol), and potassium phosphate (9.5 mg, 45 mmol) in water (0.2 mL)/1,4-dioxane (1 mL) was heated at 88° C. After 1 hour, the volatiles were removed under vacuum and the residue was dissolved in methanol (1 mL). Potassium carbonate (7.7 mg, 56 μmol) was added and the reaction mixture was warmed up to 60° C. After 0.5 hour, the reaction mixture was cooled to ambient temperature and was purified on RP-HPLC (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.05% TFA, at flow rate of 30 mL/min) to give the desired product (5.1 mg, 46%) as its TFA salt. LCMS calculated for C20H20F2N5O2 (M+H)+: m/z=400.2. Found: 400.2.

reactant | 6-bromo-2-[2-(2,6-difluoro-3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 28 μmol, 15 mg | BrC1=CC=2C(=NC=C(N2)CCC2=C(C(=CC(=C2F)OC)OC)F)N1S(=O)(=O)C1=CC=CC=C1 | C22H18BrF2N3O4S
reactant | (3-methyl-1H-pyrazol-4-yl)boronic acid | 33 μmol, 4.2 mg | CC1=NNC=C1B(O)O | C4H7BN2O2
reactant | dichloromethane | 2.2 μmol, 1.8 mg | ClCCl | CH2Cl2
reactant | potassium phosphate | 45 mmol, 9.5 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Potassium carbonate | 56 μmol, 7.7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 0.2 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(2,6-difluoro-3,5-dimethoxyphenyl)ethyl]-6-(5-methyl-1H-pyrazol-4-yl)-5H-pyrrolo[2,3-b]pyrazine | 5.1 mg, 46% | FC1=C(C(=C(C=C1OC)OC)F)CCC=1N=C2C(=NC1)NC(=C2)C=2C=NNC2C | C20H19F2N5O2
